US04548932
To a solution of sodium (0.56 g) in ethanol (20 ml) are added ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)hexanoate (7.3 g) and diethyl oxalate (3.5 g). The mixture is evaporated under reduced pressure at 60°-70° C. for 20 minutes and then at 75° C. for 20 minutes. After cooling, water (100 ml) is added to the brown residue, the resulting mixture is acidified with hydrochloric acid and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and evaporated in vacuo to give an oil. This oil is dissolved in a mixture of dimethylsulfoxide (50 ml), water (5 ml) and lithium chloride (1.5 g). The mixture is stirred for 40 minutes at 140°-160° C., cooled, diluted with water (300 ml) and extracted with ethyl acetate (300 ml). The extract is dried over anhydrous magnesium sulfate and evaporated in vacuo to yield ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)-2-oxoheptanoate (6.5 g) as an oil.

reactant | sodium | 0.56 g | [Na] | Na
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)hexanoate | 7.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCC(=O)OCC | C21H31NO4
reactant | diethyl oxalate | 3.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | lithium chloride | 1.5 g | [Cl-].[Li+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 5 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | ethyl 7-(1-benzyloxycarbonyl-4-piperidyl)-2-oxoheptanoate | 6.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCC(C(=O)OCC)=O | C22H31NO5
